data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3130,3524,[CH3:6][O:7][C:8](=[O:9])[C:10]([C:11]#[N:12])=[N+:13]([CH3:14])[NH-:15].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:10]([C:8]([O:7][CH3:6])=[O:9])([C:11]#[N:12])[N:13]([CH3:14])[NH:15]1,water,298.15,69.79182173314412,63.3300089915413
5070,5758,[CH3:10][O:11][C:12](=[O:13])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N+:21]([CH3:22])[C-:23]([CH3:24])[C:25](=[O:26])[O:27][CH3:28].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:21]([CH3:22])[C:23]1([CH3:24])[C:25](=[O:26])[O:27][CH3:28],water,298.15,32.57081898887846,-15.841016544378974
1259,1375,[CH3:1][CH:2]1[C:3]#[C:4][C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][N:23]=[O+:24][N-:25][CH3:26]>>[CH3:1][CH:2]1[C:3]2=[C:4]([C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)[CH2:18][CH2:19][CH2:20][CH2:21]1)[N:25]([CH3:26])[O:24][N:23]2[CH3:22],water,298.15,23.711220785757064,-65.87506424008521
5039,5727,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16]#[N+:17][C-:18]([C:19](=[O:20])[O:21][CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:18]([C:19](=[O:20])[O:21][CH3:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:17]=[C:16]2[CH3:15],water,298.15,10.425033395580243,-20.16350668860971
1213,1322,[CH3:11][O:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[O+:18]=[C:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][O:2]/[C:3]([C:4]#[N:5])=[C:6](\[C:7]#[N:8])[O:9][CH3:10]>>[CH3:1][O:2][C@@:3]1([C:4]#[N:5])[C@:6]([C:7]#[N:8])([O:9][CH3:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16]#[N:17])[O:18][C:19]1([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,19.64324609905294,-13.051672869358974
4742,5417,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([NH+:15]=[C:16]([C:17]#[N:18])[C:19]([CH3:20])=[O:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:22](=[O:23])[NH:24][CH3:25])[NH:15][C:16]1([C:17]#[N:18])[C:19]([CH3:20])=[O:21],water,298.15,26.917382902962352,-10.394448592082837
2110,2343,[CH3:13][C:14](=[O:15])[N-:16][N+:17]([CH3:18])=[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([C:7]([CH3:8])=[O:9])[C:10]([CH3:11])=[O:12]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([C:7]([CH3:8])=[O:9])([C:10]([CH3:11])=[O:12])[N:16]([C:14]([CH3:13])=[O:15])[N:17]([CH3:18])[C:19]1([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,53.82536283384459,19.86955914993209
1602,1771,[Br:1][C:2]#[C:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1.[CH3:10][O:11][C:12](=[O:13])[c:14]1[nH+:15][c-:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[c:23](=[O:24])[o:25]1>>[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:16]2([c:17]3[cH:18][cH:19][cH:20][cH:21][cH:22]3)[NH:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[O:25][C:23]2=[O:24],water,298.15,18.137898824824727,-16.490807202713725
2864,3182,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([O:12][CH3:13])([O:14][CH3:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][NH:21][C:22](=[O:23])[C:24](=[O+:25][C-:26]([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([O:12][CH3:13])([O:14][CH3:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:24]([C:22]([NH:21][CH3:20])=[O:23])([c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1)[O:25][C:26]2([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,14.97559621251801,-54.16736847522444
1277,1398,[CH3:18][C:19]([C:20]#[N:21])=[N+:22]([CH3:23])[C-:24]([CH3:25])[CH3:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:24]([CH3:25])([CH3:26])[N:22]([CH3:23])[C:19]3([CH3:18])[C:20]#[N:21],water,298.15,16.746308276579352,-46.57536862305946
